US05840751
5,6-Dihydro-4-hydroxy-3-[(3-methoxyphenyl)methyl]-6-phenyl-6-(2-phenylethyl)-2H-pyran-2-one (+/-).
The title compound was prepared as described in General Method 8 using the following: 5,6-dihydro-4-hydroxy-6-phenyl-6-(2-phenylethyl)-2H-pyran-2-one (0.300 g, 1.02 mmol), Et3N (0.15 mL, 1.1 mmol), 2-methoxybenzoyl chloride (0.17 g, 1.02 mmol), CH2Cl2 (4.0 mL), acetonitrile (4.0 mL), acetone cyanohydrin (0.05 mL, 0.5 mmol), Et3N (0.35 mL, 2.5 mmol), glacial acetic acid (5.0 mL), sodium cyanoborohydride (0.47 g, 7.5 mmol).

reactant | 5,6-dihydro-4-hydroxy-6-phenyl-6-(2-phenylethyl)-2H-pyran-2-one | 1.02 mmol, 0.300 g | OC1=CC(OC(C1)(CCC1=CC=CC=C1)C1=CC=CC=C1)=O | C19H18O3
reactant | Et3N | 1.1 mmol, 0.15 mL | CCN(CC)CC | C6H15N
reactant | 2-methoxybenzoyl chloride | 1.02 mmol, 0.17 g | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
reactant | acetone cyanohydrin | 0.5 mmol, 0.05 mL | CC(C#N)(O)C | C4H7NO
reactant | Et3N | 2.5 mmol, 0.35 mL | CCN(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 7.5 mmol, 0.47 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 5.0 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 4.0 mL | C(C)#N | C2H3N
solvent | CH2Cl2 | 4.0 mL | C(Cl)Cl | CH2Cl2
product | 5,6-Dihydro-4-hydroxy-3-[(3-methoxyphenyl)methyl]-6-phenyl-6-(2-phenylethyl)-2H-pyran-2-one | OC1=C(C(OC(C1)(CCC1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=CC(=CC=C1)OC | C27H26O4
